US09085568B2
Step B: Ethyl 5-benzyl-2,4-dioxo-3-[(1R)-1-phenylethyl]-1,3-oxazolidine-5-carboxylate
To a mixture of NaOH (25 g) and 15.7 g of activated molecular sieves in 1159 mL of THF at 0° C. was added a 1159 mL THF solution of diethyl benzyl(hydroxy)propanedioate (153 g). After 5 min, to this mixture was added [(1R)-1-isocyanatoethyl]benzene (118 g). The mixture was stirred at 0° C. for 30 min and then warmed to ambient temperature and stirred for 4 h. The reaction mixture was directly purified using a Biotage silica gel chromatography system (5-30% ethyl acetate in hexanes) to give the title compound.

reactant | NaOH | 25 g | [OH-].[Na+]
reactant | diethyl benzyl(hydroxy)propanedioate | 153 g | C(C1=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)O | C14H18O5
reactant | [(1R)-1-isocyanatoethyl]benzene | 118 g | N(=C=O)[C@H](C)C1=CC=CC=C1 | C9H9NO
solvent | THF | 1159 mL | C1CCOC1 | C4H8O
solvent | THF | 1159 mL | C1CCOC1 | C4H8O
product | Ethyl 5-benzyl-2,4-dioxo-3-[(1R)-1-phenylethyl]-1,3-oxazolidine-5-carboxylate | C(C1=CC=CC=C1)C1(C(N(C(O1)=O)[C@H](C)C1=CC=CC=C1)=O)C(=O)OCC | C21H21NO5
